US07915267B2
ethyl 1-({3-[(3-cyanophenyl)oxy]propyl}sulfonyl)piperidine-2-carboxylate
A suspension of ethyl 1-[(3-chloropropyl)sulfonyl]piperidine-2-carboxylate obtained in Reference Example 97 (2.00 g, 6.72 mmol), 3-hydroxybenzonitrile (0.800 g, 6.72 mmol), potassium carbonate (0.928 g, 6.72 mmol) and sodium iodide (0.101 g, 0.672 mmol) in DMF (20 mL) was stirred at 100° C. for 51 hr. The reaction mixture was diluted with ethyl acetate, washed with water, 0.5N aqueous sodium hydroxide solution, 0.1N aqueous sodium hydroxide solution and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from methanol to give the title compound as a pale-yellow powder (1.34 g, 52%).

reactant | ethyl 1-[(3-chloropropyl)sulfonyl]piperidine-2-carboxylate | ClCCCS(=O)(=O)N1C(CCCC1)C(=O)OCC | C11H20ClNO4S
reactant | 3-hydroxybenzonitrile | 6.72 mmol, 0.800 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | potassium carbonate | 6.72 mmol, 0.928 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.672 mmol, 0.101 g | [I-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-({3-[(3-cyanophenyl)oxy]propyl}sulfonyl)piperidine-2-carboxylate | 1.34 g, 52% | C(#N)C=1C=C(C=CC1)OCCCS(=O)(=O)N1C(CCCC1)C(=O)OCC | C18H24N2O5S
